US07399759B2
N-Methyl-N-[6-(4-oxo-4H-1,3-benzothiazin-2-yl)-2-pyridyl]acetamide
A mixture of 2-(6-methylamino-2-pyridyl)-4H-1,3-benzothiazine-4-one (0.20 g, 0.74 mmol), acetyl chloride (0.18 g, 2.22 mmol) and N,N-dimethylacetamide (10 ml) was stirred at 80° C. for 1 hr. After cooling, the reaction mixture was poured into water and extracted with ethyl acetate. The extract was washed with saturated brine and dried. The solvent was evaporated. The residue was recrystallized from tetrahydrofuran-hexane to give the titled compound (0.20 g, 86%)

reactant | 2-(6-methylamino-2-pyridyl)-4H-1,3-benzothiazine-4-one | 0.74 mmol, 0.20 g | CNC1=CC=CC(=N1)C=1SC2=C(C(N1)=O)C=CC=C2 | C14H11N3OS
reactant | acetyl chloride | 2.22 mmol, 0.18 g | C(C)(=O)Cl | C2H3ClO
reactant | N,N-dimethylacetamide | 10 ml | CN(C(C)=O)C | C4H9NO
solvent | water | O | H2O
product | N-Methyl-N-[6-(4-oxo-4H-1,3-benzothiazin-2-yl)-2-pyridyl]acetamide | 0.20 g, 86% | CN(C(C)=O)C1=NC(=CC=C1)C=1SC2=C(C(N1)=O)C=CC=C2 | C16H13N3O2S
